US08080552B2
160 mg (6.34 mmol) 95% sodium hydride was given to a solution of 1.00 g (5.76 mmol) 3-chloro-4-nitrophenol in 15 ml DMF. Stirring was continued for 30 min. at room temperature. 925 mg (5.76 mmol) 4-chloro-2-methylsulfanyl-pyrimidine was added and the mixture heated to 80° C. for 16 h. The reaction mixture was evaporated, taken up with water and extracted with ethyl acetate. The organic phase was extracted with water, dried (sodium sulphate) and evaporated. The obtained material was dissolved in ethyl acetate and purified by chromatography over silica (ethyl acetate/n-heptane) to give 1.10 g (64%) 4-(3-chloro-4-nitro-phenoxy)-2-methylsulfanyl-pyrimidine.

reactant | sodium hydride | 6.34 mmol, 160 mg | [H-].[Na+]
reactant | 3-chloro-4-nitrophenol | 5.76 mmol, 1.00 g | ClC=1C=C(C=CC1[N+](=O)[O-])O | C6H4ClNO3
reactant | 4-chloro-2-methylsulfanyl-pyrimidine | 5.76 mmol, 925 mg | ClC1=NC(=NC=C1)SC | C5H5ClN2S
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | 4-(3-chloro-4-nitro-phenoxy)-2-methylsulfanyl-pyrimidine | 1.10 g, 64% | ClC=1C=C(OC2=NC(=NC=C2)SC)C=CC1[N+](=O)[O-] | C11H8ClN3O3S
